US07576108B2
d: (E)-3-Cyclohexyl-2-(4-methanesulfonyl-phenyl)-acrylic acid ethyl ester
Add a suspension of oxone ® (33 g, 53 mmol) in water (300 mL) to a solution of (E)-3-cyclohexyl-2-(4-methylsulfanyl-phenyl)-acrylic acid ethyl ester (7.4 g, 24 mmol) in acetone (300 mL). Stir for three h, and then add water. Extract the resulting mixture with dichloromethane (2×500 mL). Combine the extracts, wash them with saturated aqueous sodium chloride solution, dry them over magnesium sulfate, and remove solvent under vacuum. Apply the residue to silica gel column, and elute this with a 15:15:70 mixture of dichloromethane: ethyl acetate: hexane to afford the title compound as an off-white solid (7.35 g). MS (m/e): 337 (M+H).

reactant | oxone | OOS(=O)[O-].[K+]
reactant | (E)-3-cyclohexyl-2-(4-methylsulfanyl-phenyl)-acrylic acid ethyl ester | 24 mmol, 7.4 g | C(C)OC(\C(=C\C1CCCCC1)\C1=CC=C(C=C1)SC)=O | C18H24O2S
reactant | acetone | 300 mL | CC(=O)C | C3H6O
solvent | water | 300 mL | O | H2O
product | (E)-3-Cyclohexyl-2-(4-methanesulfonyl-phenyl)-acrylic acid ethyl ester | 7.35 g | C(C)OC(\C(=C\C1CCCCC1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C18H24O4S
